US07091220B2
3-(Dimethylaminophenylmethyl)-1H-indole-2-carboxylic Acid Ethyl Ester
The preparation was carried out in accordance with general synthesis instructions 4 from 1H-indole-2-carboxylic acid ethyl ester and benzylidene-dimethyl-ammonium chloride. For characterization, an ESI-MS was recorded:

reactant | 1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=CC=C2C1 | C11H11NO2
reactant | benzylidene-dimethyl-ammonium chloride | [Cl-].C(C1=CC=CC=C1)=[N+](C)C
product | 3-(Dimethylaminophenylmethyl)-1H-indole-2-carboxylic Acid Ethyl Ester | C(C)OC(=O)C=1NC2=CC=CC=C2C1C(C1=CC=CC=C1)N(C)C | C20H22N2O2
